US05075031
28 mg (0.7 mM) of sodium hydride and 1.5 ml of dimethylformamide were stirred, and 220 mg (0.7 mM) of p-(5-n-decyl-2-pyrimidyl)phenol was added, followed by stirring for 10 minutes. Further, 218 mg (0.7 mM) of 2-cyano-methylhexyl p-toluenesulfonate and dimethylformamide were added, followed by 6 hours of stirring under heating at 100° C. After the reaction, the solvent was distilled off and distilled water was added thereto, followed by extraction with diethyl ether. The organic layer was washed with distilled water and dried on sodium sulfate. After distilling off the solvent, the product was purified by thin layer chromatography (developer solvent: hexane/methylene chloride=1/5) to obtain 149 mg of 4-(5-n-decyl-2-pyrimidyl)-phenyl 2-cyano-2-methylhexyl ether. Yield: 48.8%, [α]25D -1.47 (C 1.494, methylene chloride) m.p.: 43° C.

reactant | sodium hydride | 0.7 mM, 28 mg | [H-].[Na+]
reactant | p-(5-n-decyl-2-pyrimidyl)phenol | 0.7 mM, 220 mg | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C20H28N2O
reactant | 2-cyano-methylhexyl p-toluenesulfonate | 0.7 mM, 218 mg | C1(=CC=C(C=C1)S(=O)(=O)OC(C(CCCC)C#N)C)C | C15H21NO3S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 4-(5-n-decyl-2-pyrimidyl)-phenyl 2-cyano-2-methylhexyl ether | 149 mg, Yield: 48.8% | C(#N)C(COC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCCCC)(CCCC)C | C28H41N3O
